US07943768B2
(2R)-1-(tert-Butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic Acid
To (2R)-1-(tert-butoxycarbonyl)piperazine-2-carboxylic acid (4.5 g) and Na2CO3 (8.32 g) was added dry EtOH (135 ml) and isopropyl iodide (2.16 ml) and the mixture heated at reflux for 18 hours under argon. The solvent was then removed under reduced pressure, 5% MeOH/DCM (50 ml) added, the mixture stirred for 1 hour in a stoppered flask, filtered and washed through with DCM (2×10 ml). The filtrate was applied directly to a 120 g-silica Redisep® cartridge and purified using 10-70% MeOH/DCM. After evaporation, the product was isolated as a white foam (4.50 g), which was used without further purification.

reactant | (2R)-1-(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 4.5 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)C(=O)O | C10H18N2O4
reactant | Na2CO3 | 8.32 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | isopropyl iodide | 2.16 ml | C(C)(C)I | C3H7I
solvent | EtOH | 135 ml | CCO | C2H6O
product | (2R)-1-(tert-Butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic Acid | 4.50 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C)C)C(=O)O | C13H24N2O4
